US05780008
To 4.95 g aniline (53.128 mmol) are added 2.82 g acrylonitrile (53.128 mmol) and 3.89 ml heptane. A dry HCl gasflow is lead through the solution. Aluminiumchloride (4.10 g; 30.726 mmol) is added portionwise in 2.5 hours. The HCl flow is stopped and the reaction mixture is stored overnight at 0° C. After reflux for 1 hour, the reaction mixture is poured on ice, and dichloromethane is added. The organic phase is washed with 10% aqueous KCl-solution (4x) and, after drying, evaporated. The oil obtained is purified by column chromatography, yielding 2,39 g 4-aminophenylpropionitrile.

reactant | aniline | 53.128 mmol, 4.95 g | NC1=CC=CC=C1 | C6H7N
reactant | acrylonitrile | 53.128 mmol, 2.82 g | C(C=C)#N | C3H3N
reactant | HCl | Cl | ClH
reactant | Aluminiumchloride | 30.726 mmol, 4.10 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | heptane | 3.89 ml | CCCCCCC | C7H16
product | 4-aminophenylpropionitrile | 2,39 g | NC1=CC=C(C=C1)C(C#N)C | C9H10N2
